US04681873
4-Amino-3-bromo-1-(β-D-ribofuranosyl)-2(1H)-pyridinone
A solution of 3.52 g (5.6 mmol) of 4-amino-3-bromo-1-(2,3,5-tri-O-benzoyl-β-D-ribofuranosyl)-2(1H)-pyridinone and 0.556 mmol of sodium methoxide in 50 ml of methanol was stirred at room temperature for 24 hours. At the end of this time, 0.88 g of methanol-washed IRC-50 ion exchange resin (Dow Chemical Co., Midland, Mich., USA) in the hydrogen ion form were added to the solution, and the resulting mixture was stirred for one hour.

reactant | 4-amino-3-bromo-1-(2,3,5-tri-O-benzoyl-β-D-ribofuranosyl)-2(1H)-pyridinone | 5.6 mmol, 3.52 g | NC1=C(C(N(C=C1)[C@H]1[C@H](OC(C2=CC=CC=C2)=O)[C@H](OC(C2=CC=CC=C2)=O)[C@H](O1)COC(C1=CC=CC=C1)=O)=O)Br | C31H25BrN2O8
reactant | sodium methoxide | 0.556 mmol | C[O-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 4-Amino-3-bromo-1-(β-D-ribofuranosyl)-2(1H)-pyridinone | NC1=C(C(N(C=C1)[C@H]1[C@H](O)[C@H](O)[C@H](O1)CO)=O)Br | C10H13BrN2O5
